US05709911
First, 5.8 g of 4-[4-(2,3-difluorophenyl)-3-cyclohexenyl]cyclohexanone ethylene ketal, 0.5 g of 10% Pd--C, and 20 ml of tetrahydrofuran were placed in a 200 ml autoclave. The mixture was stirred at room temperature overnight under a hydrogen pressure of 5 kg/cm2. A catalyst was filtered away and a filtrate was distilled away. Thereafter, 25 ml of dry dimethyl sulfoxide and 2.4 g of potassium t-butoxide were added to the residue. The mixture was stirred at room temperature for 4 hours in the atmosphere of argon. Diluted hydrochlolic acid was added to the reaction mixture, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled away to obtain 5.85 g of 4-[trans-4-(2,3-difluorophenyl)cyclohexyl]cyclohexanone ethylene ketal (Y: 75.3%). The compound thus obtained had a purity of 74.9% by GC.

reactant | 4-[4-(2,3-difluorophenyl)-3-cyclohexenyl]cyclohexanone ethylene ketal | 5.8 g | C1COC2(CCC(CC2)C2CC=C(CC2)C2=C(C(=CC=C2)F)F)O1 | C20H24F2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[trans-4-(2,3-difluorophenyl)cyclohexyl]cyclohexanone ethylene ketal | 5.85 g, 75.3% | C1COC2(CCC(CC2)[C@@H]2CC[C@H](CC2)C2=C(C(=CC=C2)F)F)O1 | C20H26F2O2
